US08372807B2
To a mixture of naphthalen-1-ylhydrazine hydrochloride (1 g, 5.1 mmol) and potassium carbonate (1.4 g, 10.3 mmol) in water (30 mL) was added diethyl ethoxymethylenemalonate (1.1 g, 5.1 mmol) at room temperature. The reaction mixture was stirred for 3 hours at room temperature and then extracted with ethyl acetate. The aqueous layer was acidified with 1N HCl to pH 2 and then extracted with ethyl acetate again. This organic layer was dried over sodium sulfate and concentrated to give ethyl 5-hydroxy-1-(naphthalen-1-yl)-1H-pyrazole-4-carboxylate as a solid.

reactant | naphthalen-1-ylhydrazine hydrochloride | 5.1 mmol, 1 g | Cl.C1(=CC=CC2=CC=CC=C12)NN
reactant | potassium carbonate | 10.3 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ethoxymethylenemalonate | 5.1 mmol, 1.1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 30 mL | O | H2O
product | ethyl 5-hydroxy-1-(naphthalen-1-yl)-1H-pyrazole-4-carboxylate | OC1=C(C=NN1C1=CC=CC2=CC=CC=C12)C(=O)OCC | C16H14N2O3
